US04450165
2-(Bromoacetyl)furan (95 g) is added slowly to a stirred mixture of 75 g of N-methylbenzylamine and 70 g of potassium carbonate in 300 ml of methanol at 20°-30° C. The mixture is stirred at room temperature for 2.5 hours, and the insoluble matter is filtered off. To the filtrate is added 20 g of sodium borohydride at 10°-20° C. with stirring, and the mixture is stirred at room temperature for 3 hours. The solvent is then distilled off under reduced pressure, water is added to the residue, and the separated oil is extracted with ethyl acetate. The extract is washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. Distillation of the residue gives 80 g of 2-(N-benzyl-N-methylamino)-1-(2-furyl)ethanol as pale yellow viscous oil, boiling at 130°-138° C. (0.2 mmHg).

reactant | 2-(Bromoacetyl)furan | 95 g | BrCC(=O)C=1OC=CC1 | C6H5BrO2
reactant | N-methylbenzylamine | 75 g | CNCC1=CC=CC=C1 | C8H11N
reactant | potassium carbonate | 70 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 300 ml | CO | CH4O
product | 2-(N-benzyl-N-methylamino)-1-(2-furyl)ethanol | 80 g | C(C1=CC=CC=C1)N(C)CC(O)C=1OC=CC1 | C14H17NO2
